US04584371
To a dry flask under N2 atmosphere there was added 37.5 ml. of methylene chloride, 2.5 ml. of THF and 0.88 ml. of 2-ethylhexanoic acid. The solution was cooled to 0° C. and 3.25 ml. of potassium tertbutoxide in THF solution (1.6M of t-BuOK) was added to form in situ the potassium 2-ethylhexanoate salt base. To this mixture there was added 3.10 g. of the 3-hydroxymethyl-cephalosporin reactant, named in Example 1, part D, and 0.122 g. of DMAP and 0.84 ml. of triethylamine, followed by 3 ml. of CH2Cl2 containing 0.485 ml. of α-chloropropionyl chloride. When the addition was complete, a second 0.84 ml. portion of triethylamine and 3 ml. of CH2Cl2 solution containing 0.485 ml. of α-chloropropionyl chloride was added. The resulting reaction mixture was then added to 40 ml. of water containing 5 ml. of 1M sulfuric acid. Then 8 ml. of hexane were added. The reaction mixture was filtered and dried to obtain 2.29 g. of the hereinabove named 3-(α-chloropropionyloxymethyl)-compound. The NMR spectrum for this product was similar to that described in Example 1, but with the 3'-CH2 reading at 4.9(m), the -CHCl at 4.4(q) and the CHCl-CH3 at 1.5(d).

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-ethylhexanoic acid | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | potassium tertbutoxide | CC(C)([O-])C.[K+]
solvent | THF | 1.6M | C1CCOC1 | C4H8O
product | potassium 2-ethylhexanoate salt | C(C)C(C(=O)[O-])CCCC.[K+] | InChI=1S/C8H16O2.K/c1-3-5-6-7(4-2)8(9)10;/h7H,3-6H2,1-2H3,(H,9,10);/q;+1/p-1
